US08138176B2
e1) C-[5-(4-Methoxyphenyl)-5-methylmorpholin-3-yl]-methylamine
A mixture of 50 mmol of 3-(4-methoxyphenyl)-3-methyl-5-[1-nitrometh-(Z)-ylidene]morpholine and 5 teaspoons full of Raney nickel in 500 ml of tetrahydrofuran and 250 ml of methanol is hydrogenated under atmospheric pressure for 5 hours. The reaction mixture is filtered through Hyflo and the filtrate is evaporated. The crude title compound is identified from the residue on the basis of the Rf. The title compound is employed without further purification in the next stage.

reactant | 3-(4-methoxyphenyl)-3-methyl-5-[1-nitrometh-(Z)-ylidene]morpholine | 50 mmol | COC1=CC=C(C=C1)C1(N\C(\COC1)=C/[N+](=O)[O-])C | C13H16N2O4
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | methanol | 250 ml | CO | CH4O
product | C-[5-(4-Methoxyphenyl)-5-methylmorpholin-3-yl]-methylamine | COC1=CC=C(C=C1)C1(COCC(N1)CN)C | C13H20N2O2
